US08426420B2
(iv) 4-{(S)-2-[(5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-4-tert-butoxycarbonyl-butyryl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 14.5 g 4-{(S)-4-tert-butoxycarbonyl-2-[(5-hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 110 ml DMF were added 4.5 ml benzyl bromoacetate and 17.8 g cesium carbonate. After stirring at RT for 12 h the solution was reduced to a volume of 50 ml, diluted with 400 ml ethyl acetate and extracted with aqueous LiCl (4% w/w). The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica eluting with a gradient of n-heptane/ethyl acetate.

reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(5-hydroxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 14.5 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O)C1=CC=CC=C1)=O | C26H35N5O7
reactant | benzyl bromoacetate | 4.5 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | cesium carbonate | 17.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 4-{(S)-2-[(5-Benzyloxycarbonylmethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-4-tert-butoxycarbonyl-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C35H43N5O9
